US03988448
To the solution of 4.5 g of 7,7-diphenyl-hexahydro-1,4-oxazepine and 2.65 g of di-isopropyl-ethylamine in 30 ml of methylene chloride, that of 2.21 g of chloroactyl chloride in 25 ml of methylene chloride is added dropwise while stirring and cooling with ice. After stirring for 30 minutes at 0°-5°, the mixture is washed twice with 10 ml of cold N hydrochloric acid and 10 ml of cold 10% aqueous sodium carbonate each, dried, filtered and evaporated. The residue is triturated with diethyl ether and recrystallized from ethanol, to yield the 4-(2-chloroacetamido)-7,7-diphenyl-hexahydro-1,4-oxazepine melting at 150°-152°.

reactant | 7,7-diphenyl-hexahydro-1,4-oxazepine | 4.5 g | C1(=CC=CC=C1)C1(CCNCCO1)C1=CC=CC=C1 | C17H19NO
reactant | di-isopropyl-ethylamine | 2.65 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloroactyl chloride | 2.21 g | ClCC(=O)Cl | C2H2Cl2O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-chloroacetamido)-7,7-diphenyl-hexahydro-1,4-oxazepine | ClCC(=O)NN1CCOC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H21ClN2O2
